spice
* SPICE Netlist for the given circuit

* Current Source
I1 6 2 DC <value> ; Connect from node 6 to 2, value to be specified

* Q1 BJT 
Q1 2 2 5 NPN ; Collector 2, Base 2, Emitter 5

* Q2 BJT
Q2 4 2 5 NPN ; Collector 4, Base 2, Emitter 5

* Diodes
D1 2 1 D_Model ; Anode 2, Cathode 1
D2 2 5 D_Model ; Anode 2, Cathode 5

* Load Resistor
RL 4 3 <value> ; From node 4 to 3, value to be specified

* Voltage Sources
VCC 6 0 DC <value> ; From node 6 to ground, value to be specified
VEE 5 0 DC <value> ; From node 5 to ground, value to be specified

* Model Definitions
.model D_Model D      ; Diode model

.end